US05332734
0.8 g of sodium hydride (60% dispersion in mineral oil) was added over 5 minutes under ice-cooling to a solution of 3.64 g of 9-fluorenol and 3 ml of ethyl bromoacetate in 40 ml of N,N-dimethylformamide. After stirring for 50 minutes, the reaction mixture was poured into ice-cold 5% HCl and extracted with ether. The organic layer was washed with a saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by a silica gel column chromatography (eluting solution: methylene chloride-hexane) to give 2.28 g of ethyl 9-fluorenyloxyacetate.

reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | 9-fluorenol | 3.64 g | C1=CC=CC=2C3=CC=CC=C3C(C12)O | C13H10O
reactant | ethyl bromoacetate | 3 ml | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl 9-fluorenyloxyacetate | 2.28 g | C1=CC=CC=2C3=CC=CC=C3C(C12)OCC(=O)OCC | C17H16O3
